US08859544B2
Methyl {6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2,4-dioxo-1,4-dihydroquinazolin-3(2H)-yl}acetate
1.22 g (4.14 mmol) of triphosgene diluted in 15 ml of dioxane are added, under an inert atmosphere at ambient temperature, to 2 g (5.91 mmol) of methyl 2-amino-5-[(1-methoxyindolizin-3-yl)carbonyl]benzoate in 65 ml of dioxane. The reaction medium is stirred for 1 hour at ambient temperature and then 1.48 g (11.82 mmol) of methyl glycinate and 4.12 ml (29.55 mmol) of triethylamine are added. The reaction medium is stirred for 18 hours and then 1.08 g (5.91 mmol) of DBU are added. After stirring for 24 hours, the medium is hydrolysed with water. The aqueous phase is extracted with dichloromethane. The organic phase obtained is washed with water, dried over sodium sulphate, filtered, and then concentrated under reduced pressure. The solid is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (95/5) mixture. The solid obtained is recrystallized, under hot conditions, from methanol. 1.5 g of a yellow solid are obtained.

reactant | triphosgene | 4.14 mmol, 1.22 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methyl 2-amino-5-[(1-methoxyindolizin-3-yl)carbonyl]benzoate | 5.91 mmol, 2 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=CC(=C2C=CC=CN12)OC | C18H16N2O4
reactant | methyl glycinate | 11.82 mmol, 1.48 g | NCC(=O)OC | C3H7NO2
reactant | triethylamine | 29.55 mmol, 4.12 ml | C(C)N(CC)CC | C6H15N
reactant | DBU | 5.91 mmol, 1.08 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Methyl {6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2,4-dioxo-1,4-dihydroquinazolin-3(2H)-yl}acetate | 1.5 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(N(C(NC2=CC1)=O)CC(=O)OC)=O)C | C22H19N3O6
